US07129367B2
(3) Preparation of 2,2-diphenyl-1-(diphenylphosphino)-1-methylcyclopropane
Under a nitrogen atmosphere, 1-bromo-2,2-diphenylcyclopropane (1.44 g, 5.0 mmol) and magnesium (0.134 g, 5.5 mmol) and THF (10 ml) were placed in a reaction flask. Then, a trace amount of iodine was added and the mixture was stirred at 40° C. for 2 hours. After cooling, copper iodide (0.961 g, 5.0 mmol) and chlorodiphenylphosphine (0.90 ml, 5.0 mmol) were added and the resulting mixture was stirred at 40° C. for 20 hours. After cooling to room temperature, hexane (10 ml) was added to the reaction mixture, and crystal separated was then collected by filtration. The crystal was dissolved in toluene, washed with an aqueous 28% ammonia solution and a brine, and dried over anhydrous magnesium sulfate. The solvent was then removed under reduced pressure and the concentrate was recrystallized from a mixture of methanol and toluene to give the title compound (0.98 g, 50%) as white crystal.

reactant | 1-bromo-2,2-diphenylcyclopropane | 5.0 mmol, 1.44 g | BrC1C(C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C15H13Br
reactant | magnesium | 5.5 mmol, 0.134 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | chlorodiphenylphosphine | 5.0 mmol, 0.90 ml | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
reactant | hexane | 10 ml | CCCCCC | C6H14
catalyst | copper iodide | 5.0 mmol, 0.961 g | [Cu](I)I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2,2-diphenyl-1-(diphenylphosphino)-1-methylcyclopropane | 0.98 g, 50% | C1(=CC=CC=C1)C1(C(C1)(C)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H25P
